US07504411B2
To a solution of 1-biphenyl-2-yl-piperazine dihydrochloride (311 mg, 1.0 mmol) and 2-chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (202 mg, 0.91 mmol) in tetrahydrofuran (20 mL) was added triethylamine (404 mg, 4.0 mmol). The mixture was stirred at 90° C. for 4 h. The solvent was evaporated off in vacuo and the residue treated with water and chloroform. The organic layer was dried over sodium sulfate and the solvent was evaporated under reduced pressure. Recrystallization from ethyl acetate gave 2-[4-(biphenyl-2-yl)piperazin-1-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (250 mg, 65%) as colorless crystals.

reactant | 1-biphenyl-2-yl-piperazine dihydrochloride | 1.0 mmol, 311 mg | Cl.Cl.C1(=C(C=CC=C1)N1CCNCC1)C1=CC=CC=C1
reactant | 2-chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 0.91 mmol, 202 mg | ClC=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C9H7ClN4O
reactant | triethylamine | 4.0 mmol, 404 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-[4-(biphenyl-2-yl)piperazin-1-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 250 mg, 65% | C1(=C(C=CC=C1)N1CCN(CC1)C=1N(C(C=C(N1)C1=NC=NC=C1)=O)C)C1=CC=CC=C1 | C25H24N6O
